US05710150
1-(4-Aminobenzoyl)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one (200 mg) and 5 ml of pyridine were dissolved in 10 ml of methylene chloride, and 10 ml of a methylene chloride solution containing the o-phenylbenzoic acid chloride obtained above was added dropwise under ice-cooling. After 1 hour of stirring at room temperature, the solvent was evaporated under a reduced pressure, and the thus obtained residue was dissolved in ethyl acetate and washed with saturated sodium carbonate aqueous solution, 1N hydrochloric acid aqueous solution and saturated sodium chloride aqueous solution in that order. After drying on anhydrous magnesium sulfate and subsequent evaporation of the solvent under a reduced pressure, the resulting residue was applied to column chromatography, which was eluted with a mixed solvent of ethyl acetate and hexane (2:3, v/v) to obtain 283 mg of 4,4-difluoro-1-[4-(2-phenylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one. This product was recrystallized from ethyl acetate-hexane.

reactant | 1-(4-Aminobenzoyl)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 200 mg | NC1=CC=C(C(=O)N2CCC(C(C3=C2C=CC=C3)=O)(F)F)C=C1 | C17H14F2N2O2
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | o-phenylbenzoic acid chloride | C1(=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4,4-difluoro-1-[4-(2-phenylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 283 mg | FC1(CCN(C2=C(C1=O)C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=CC=C2)=O)=O)F | C30H22F2N2O3
